US07105544B2
1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 138 was prepared from 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.52–7.46 (m, 1H), 7.45–7.43 (m, 1H), 7.30 (s, 1H), 7.22 (s, 1H), 7.17 (t, 1H, J=7.9 Hz), 7.07–7.01 (m, 2H), 6.89–6.84 (m, 1H), 5.99–5.94 (m, 1H), 3.21 (q, 2H, J=5.7 Hz), 2.87–2.80 (m, 2H), 2.59–2.49 (m, 1H), 2.44 (septet, 1H, J=6.5 Hz), 2.41–2.40 (m, 2H), 2.26 (t, 2H, J=5.7 Hz), 2.04–1.96 (m, 2H), 1.93–1.85 (m, 2H), 1.82–1.71 (m, 4H), 1.64–1.50 (m, 8H), 1.17 (d, 6H, J=6.5 Hz); ESMS m/e: 542.1 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)O | C13H14ClFO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C31H41ClFN3O2
